US08258175B2
2-Benzyl-3-hydroxy-3-[4-(2-trimethylsilanylethoxymethoxy)phenyl]-2,3-dihydroiso-indol-1-one (125 mg, 0.27 mmol) was reacted with thionyl chloride (0.019 mL, 0.27 mmol) and a catalytic amount of DMF (3 drops) as for general procedure G. Removal of the solvent gave 2-benzyl-3-chloro-3-[4-(2 trimethylsilanylethoxymethoxy)phenyl]-2,3-dihydroiso-indol-1-one as a colourless oil (129 mg, 0.27 mmol, 100%).

reactant | 2-Benzyl-3-hydroxy-3-[4-(2-trimethylsilanylethoxymethoxy)phenyl]-2,3-dihydroiso-indol-1-one | 0.27 mmol, 125 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C1(C1=CC=C(C=C1)OCOCC[Si](C)(C)C)O)=O | C27H31NO4Si
reactant | thionyl chloride | 0.27 mmol, 0.019 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-benzyl-3-chloro-3-[4-(2 trimethylsilanylethoxymethoxy)phenyl]-2,3-dihydroiso-indol-1-one | 0.27 mmol, 129 mg, 100% | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C1(C1=CC=C(C=C1)OCOCC[Si](C)(C)C)Cl)=O | C27H30ClNO3Si
